US08076360B2
To a solution of 0.11 g (0.26 mmol) of 7-bromomethyl-5-chloro-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in THF (1 ml) at RT, 40 μl of morpholine was added. The reaction mixture was stirred at 40° C. for one hour and concentrated under vacuo. The crude was dissolved in CH2Cl2 (1 m) and at RT, 0.2 ml of TFA was added and stirring was continued over night. Preparative HPLC (30% CH3CN/H2O) afforded 53 mg (62%) of 5-chloro-7-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid ethyl ester as colorless oil.

reactant | 7-bromomethyl-5-chloro-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.26 mmol, 0.11 g | CCOC(=O)C=1N(C2=C(C=C(C=C2C1)Cl)CBr)C(=O)OC(C)(C)C | C17H19BrClNO4
reactant | morpholine | 40 μl | N1CCOCC1 | C4H9NO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-chloro-7-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | 53 mg, 62% | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)CN1CCOCC1 | C16H19ClN2O3
